US07759337B2
To a stirred solution of (4-chloro-2-fluorophenyl)methanol (4.60 g, 28.6 mmol) in THF (100 mL) was added 1H-imidazole (1.95 g, 28.6 mmol) and tert-butylchlorodimethylsilane (4.32 g, 28.6 mmol) at room temperature. The reaction mixture was stirred for 12 h at RT. The white precipitate was filtered and the filtrate was washed with 0.1 N aqueous HCl. The separated aqueous phase was extracted with diethyl ether (2×40 mL). The combined organic phases were washed with saturated aqueous solution of sodium bicarbonate, and brine. The resulting organic solution was dried over magnesium sulfate and concentrated under reduced pressure. Flash chromatography on silica (hexanes) gave (4-chloro-2-fluorobenzyloxy)(tert-butyl)dimethylsilane as colorless oil. 1H NMR (300 MHz, CHLOROFORM-d) 6 ppm 7.31 (1H, t, J=8.1 Hz), 7.01 (1H, d, J=8.3 Hz), 6.91 (1 H, dd, J=9.9, 1.8 Hz), 4.64 (2H, s), 0.73-0.86 (9H, m), −0.06 (6H, s)

reactant | (4-chloro-2-fluorophenyl)methanol | 28.6 mmol, 4.60 g | ClC1=CC(=C(C=C1)CO)F | C7H6ClFO
reactant | 1H-imidazole | 28.6 mmol, 1.95 g | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodimethylsilane | 28.6 mmol, 4.32 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (4-chloro-2-fluorobenzyloxy)(tert-butyl)dimethylsilane | ClC1=CC(=C(CO[Si](C)(C)C(C)(C)C)C=C1)F | C13H20ClFOSi
